US06667377B2
A 1:1 (weight ratio) of ethylene carbonate/propylene carbonate (EC/PC) solution was prepared by dissolving 100 g of ethylene carbonate (EM Industries, Selectipur® grade) in 100 g of propylene carbonate (EM Industries, Selectipur® grade) at room temperature inside a nitrogen gas dry box.

reactant | ethylene carbonate | 100 g | C1(OCCO1)=O | C3H4O3
reactant | propylene carbonate | 100 g | C1(OCC(C)O1)=O | C4H6O3
product | ethylene carbonate propylene carbonate | C1(OCCO1)=O.C1(OCC(C)O1)=O | InChI=1S/C4H6O3.C3H4O3/c1-3-2-6-4(5)7-3;4-3-5-1-2-6-3/h3H,2H2,1H3;1-2H2
